US09447033B2
5-Benzylamino-2-fluoro-N-isopropyl-benzamide was synthesized from 5-amino-2-fluoro-N-isopropyl-benzamide and benzaldehyde according to the method described in Example 1

reactant | 5-amino-2-fluoro-N-isopropyl-benzamide | NC=1C=CC(=C(C(=O)NC(C)C)C1)F | C10H13FN2O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 5-Benzylamino-2-fluoro-N-isopropyl-benzamide | C(C1=CC=CC=C1)NC=1C=CC(=C(C(=O)NC(C)C)C1)F | C17H19FN2O
